US06762330B2
A 100 mL of reactor equipped with magnetic stir bar was charged with 150 mg (0.161 mmol) of {[(t-Bu)2P(OH)]2PdCl}2 (from Experiment 7), 1.43 g (10.0 mmol) of 3-chloroanisole, 1.83 g (15.0 mmol) of PhB(OH)2 and 4.56 g (30.0 mmol) of CsF in 30.0 mL of DME. The resulting mixture was refluxed for 12 h until the starting material was completely consumed as judged by TLC. The reaction was cooled to room temperature, transferred to a separatory funnel, and diluted with 300 mL of diethyl ether. The layers were separated, and organic layer was washed with H2O (2×100 mL), brine (100 mL), and dried over mgSO4, filtered, and the ether and dioxane removed from the filtrate by rotary evaporation. The resulting residue was chromatographed on silicon gel using 2% EtOAc/hexane as eluant. The eluate was concentrated by rotary evaporation followed by high vacuum to give 1.73 g (94% yield) of 3-phenylanisole.

reactant | 3-chloroanisole | 10.0 mmol, 1.43 g | ClC=1C=C(C=CC1)OC | C7H7ClO
reactant | PhB(OH)2 | 15.0 mmol, 1.83 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | CsF | 30.0 mmol, 4.56 g | [F-].[Cs+]
solvent | DME | 30.0 mL | COCCOC | C4H10O2
product | 3-phenylanisole | 1.73 g, 94% yield | C1(=CC=CC=C1)C=1C=C(C=CC1)OC | C13H12O
